2114-06-05 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79 year-old female with history of sarcoidosis,
   moderate pulmonary hypertension, ILD, and diabetes mellitus type 2 who
   presents with acute on chronic dyspnea
   24 Hour Events:
   Chest CTA: No PE, though evaluation of subsegmental vessels at left
   base is limited. New bilateral small effusions and compressive
   atalectasis with scattered thickened septal lines- ? edema, less likely
   changes related to sarcoid. D/W Dr. [**Last Name (STitle) **] 2:00
   Allergies:
   Aspirin
   Anemia; gastrit
   Last dose of Antibiotics:
   Vancomycin - [**2114-6-4**] 09:00 PM
   Levofloxacin - [**2114-6-4**] 10:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2114-6-5**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.7
   HR: 62 (62 - 89) bpm
   BP: 128/61(79) {106/48(62) - 169/118(122)} mmHg
   RR: 13 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 81.9 kg
             Total In:
                                                                  1,948 mL
                                                                    639 mL
   PO:
                                                                    740 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,208 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    550 mL
   Urine:
                                                                    625 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,323 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ////
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally 1/3 up )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   228 K/uL
   9.8 g/dL
   29.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2114-6-4**]  05:57 PM
                             [**2114-6-5**]  05:30 AM
   WBC
   10.6
   Hct
   29.1
   Plt
   228
   TropT
   <0.01
   Other labs: CK / CKMB / Troponin-T:97//<0.01, ALT / AST:13/
   Chest CTA: ***Prelim read***
   No PE, though evaluation of subsegmental vessels at left base is
   limited. New
   bilateral small effusions and compressive atalectasis with scattered
   thickened
   septal lines- ? edema, less likely changes related to sarcoid. D/W Dr.
   [**Last Name (STitle) **]
   Assessment and Plan
   79 year-old female with history of sarcoidosis, moderate pulmonary
   hypertension, ILD, and diabetes mellitus type 2 who presents with acute
   on chronic dyspnea
   #  Hypoxic respiratory failure:  Her constellation of symptoms is most
   likely secondary to respiratory decompensation in the setting of a
   viral URI and poor respiratory reserve.  Contributing factors to her
   poor respiratory function include known pulm hypertension and ILD,
   though it is unclear whether this is secondary to sarcoidosis or
   another etiology. Chest CT with fluid in fissures with elevated BNP
   suggests diastolic dysfunction or heart failure, although this may be
   progression of ILD.  Arguing against progression of pulm htn is her
   overall improvement on sildenafil, as noted on her recent appointment
   with Dr. [**Last Name (STitle) **] on [**5-25**].  Other etiologies to consider include
   pneumonia.
   - f/u final read of chest CTA
   - f/u rapid respiratory viral screen
   - sputum cx
   - ECHO to assess PA pressures
   - empiric vanc/levo to cover for pna pending culture data
   - cont sildenafil
   - wean shovel mask as tolerated
   - no ABG given absence of respiratory distress or mental status changes
   - ROMI
   - Trial of Lasix diuresis with goal of negative 500cc - 1 L
   #  Pulmonary hypertension/right heart failure:  Underwent right heart
   cath in [**12-11**] and had PA pressure of 53/23.  PA htn of unclear
   etiology, possibly secondary to sarcoidosis though pattern on chest CT
   not typical for this disease.  Now appears to have more profound lung
   disease on chest x-ray, but was doing well in clinic one week prior to
   admission so unlikely to have sildenafil treatment failure.
   - cont sildenafil.  [**Month (only) 11**] require higher doses, but will reassess after
   diuresis.
   - cont lasix with caution given preload dependence of right ventricle
   - ECHO as above
   #  Hypertension:  Stable.
   - cont ACEi, CCB, beta blocker
   # Diabetes mellitus type II:  Stable.
   - hold oral hypoglycemics
   - ISS
   # Chronic renal insufficiency:  Creatinine at baseline of 1.5.
   - mucomyst and IVFs prior to CTA
   - renally dose meds
   # FEN: No IVF, replete electrolytes, diabetic diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: full, discussed with patient
   # Communication: Daughter is [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 6367**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-6-4**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2114-06-06 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TTE showed increased dilation of RV, increased PAH (61mmgHg),
   worsening of free wall motion abnormality on right. EF 60%
   - I/O at 3pm only -500 so given another 40mg IV lasix but then am labs
   with creatinine increased (1.4->1.7) so stopped diuresing.
   - Dr. [**First Name (STitle) 1707**] was concerned for CHF given effusions and thought best to
   trend BNP and lactate to see if getting better but agreed with holding
   further diuresis overnight given creatinine elevation
   - D/c'd abx as afebrile, no leukocytosis, and chest ct inconsistent
   with bacterial pna
   - flu swab negative ->d/c'd precautions
   Allergies:
   Aspirin
   Anemia; gastrit
   Last dose of Antibiotics:
   Vancomycin - [**2114-6-4**] 09:00 PM
   Levofloxacin - [**2114-6-4**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-6-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-6-6**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 59 (58 - 81) bpm
   BP: 137/58(77) {72/39(45) - 152/76(86)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 91%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 81.7 kg (admission): 81.9 kg
                  Total In:
                                                                  1,419 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
                                                                    579 mL
   Blood products:
   Total out:
                                                                  3,325 mL
                                                                    400 mL
   Urine:
                                                                  3,325 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,906 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bilateral rales at lung bases, no wheezes or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, [**2-9**] HSM, [**1-9**] late
   diastolic murmur, no rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+ LE edema
   Labs / Radiology: AM chemistry pending at time of note.
   229 K/uL
   10.0 g/dL
   95 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.3 mEq/L
   23 mg/dL
   104 mEq/L
   143 mEq/L
   30.0 %
   9.8 K/uL
        [image003.jpg]
                             [**2114-6-4**]  05:57 PM
                             [**2114-6-5**]  05:30 AM
                             [**2114-6-5**]  04:26 PM
                             [**2114-6-6**]  06:04 AM
   WBC
   10.6
   9.8
   Hct
   29.1
   30.0
   Plt
   228
   229
   Cr
   1.4
   1.7
   TropT
   <0.01
   <0.01
   Glucose
   95
   Other labs: CK / CKMB / Troponin-T:87//<0.01, ALT / AST:13/, Ca++:8.9
   mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   TTE: The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is normal (LVEF>55%). The
   right ventricular cavity is dilated with mild global free wall
   hypokinesis. There is abnormal septal motion/position consistent with
   right ventricular pressure/volume overload. The aortic valve leaflets
   are moderately thickened. There is mild aortic valve stenosis (valve
   area 1.2-1.9cm2). Mild (1+) aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. Trivial mitral regurgitation is
   seen. The left ventricular inflow pattern suggests impaired relaxation.
   The tricuspid valve leaflets are mildly thickened. There is severe
   pulmonary artery systolic hypertension. There is a trivial/physiologic
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2113-11-2**], the
   right ventricle appears slightly larger and free wall motion appears
   similar to slightly more depressed. Estimated pulmonary artery systolic
   pressure is now higher.
   Assessment and Plan
   79 year-old female with history of sarcoidosis, moderate pulmonary
   hypertension, ILD, and diabetes mellitus type 2 who presents with acute
   on chronic dyspnea
   .
   #  Hypoxic respiratory failure:  Unclear etiology of hypoxia. Concerned
   initially for CHF and diuresed to negative 2L yesterday however with
   diuresis bumped creatinine/BUN.
   - follow BNPs and lactates to ascertain degree of CHF and whether
   perfusing as this may be able to sort out etiology of pleural
   effusions-> as still elevated BNP today would favor another 40mg IV
   Lasix especially since creatinine this am at baseline.
   - Flu swab negative
   - TTE with worsening PAH but this could be from hypoxic
   bronchoconstriction
   - sputum cx pending
   - empiric vanc/levo were discontinued as no evidence of infection
   clinically or on imaging
   - wean shovel mask as tolerated
   - Consider swan-ganz for pulmonary and wedge pressures to ascertain CHF
   vs ILD
   #  Pulmonary hypertension/right heart failure: Was doing well in clinic
   one week prior to admission so unlikely to have sildenafil treatment
   failure. TTE showed worsening PAH but unclear if this is related to
   hypoxic constriction as above.
   - cont sildenafil and consider increasing dose
   - cont lasix with caution given preload dependence of right ventricle
   - cte to f/u BNPs/lactate as above.
   - [**Month (only) 11**] consider steroids to treat ILD if swan shows worsening PAH and
   consider flolan in the future.
   # Chronic renal insufficiency:  Creatinine at baseline of 1.5 prior to
   diuresis then bumped to 1.7 likely [**2-5**] pre-renal azotemia from
   diuresis.
   - renally dose meds
   -trend creatinine
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: full, discussed with patient
   # Communication: Daughter is [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 6367**]
   # Disposition: pending above
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   *         -2L, CXR not significantly changed
   *         BUN/Cr rise with lasix
   *         afebrile, WBC nl, flu panel neg
   *         99.2 120/50 58 high flow FM
   *         wbc 11--> 10
   *         BNP 3100
   *         TTE worse PH
   I am concerned about unexplained marked increase in oxygen requirement.
   Presentation not c/w infection. No improvement with diuresis. BNP
   increased from 1200--> 3000, which can be due to CHF or PAH
   progression. SGC may allow better understanding of filling pressures as
   well as sense of whether her PH has worsened and needs further
   pulmonary vasodilation. I would like to try that prior to committing
   her to high dose corticosteroids for empirical treatment of ILD flare.
   Discussed with Dr [**Last Name (STitle) **], who agrees.
   Critically ill, 35 minutes
   .
   ------ Protected Section Addendum Entered By:[**Name (NI) 101**] [**Last Name (NamePattern1) 65**], MD
   on:[**2114-6-6**] 18:41 ------

2114-06-07 04:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2114-6-6**] 06:15 PM
 PA CATHETER - START [**2114-6-6**] 06:15 PM
   - Swan placed with elevated PCWP 22 and mean PAP 48 suggestive of fluid
   overload
   - Pt with sats 90-94 when awake but 88-90 while asleep -> put on 100%
   NRB with improvement to 93%
   - Received extra lasix 40mg IV x 1 as only 1.1 L neg at MN
   Allergies:
   Aspirin
   Anemia; gastrit
   Last dose of Antibiotics:
   Vancomycin - [**2114-6-4**] 09:00 PM
   Levofloxacin - [**2114-6-4**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-6-6**] 04:34 PM
   Furosemide (Lasix) - [**2114-6-7**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-6-7**] 04:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 69 (57 - 71) bpm
   BP: 134/57(75) {104/35(54) - 146/69(85)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 81.9 kg
    CVP: 7 (2 - 12)mmHg
   PAP: (69 mmHg) / (22 mmHg)
   PCWP: 22 (22 - 22) mmHg
   CO/CI (Thermodilution): (5.4 L/min) / ()
   SVR: 1,007 dynes*sec/cm5
   SV: 83 mL
   Total In:
                                                                  1,200 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    900 mL
   Urine:
                                                                  2,350 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bilateral rales at lung bases, no wheezes or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, [**2-9**] HSM, [**1-9**] late
   diastolic murmur, no rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+ LE edema
   Labs / Radiology
   232 K/uL
   10.5 g/dL
   100 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.6 mEq/L
   28 mg/dL
   102 mEq/L
   143 mEq/L
   31.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2114-6-4**]  05:57 PM
                             [**2114-6-5**]  05:30 AM
                             [**2114-6-5**]  04:26 PM
                             [**2114-6-6**]  06:04 AM
                             [**2114-6-6**]  03:17 PM
                             [**2114-6-7**]  03:23 AM
   WBC
   10.6
   9.8
   9.1
   Hct
   29.1
   30.0
   31.3
   Plt
   [**Telephone/Fax (3) 6424**]
   Cr
   1.4
   1.7
   1.5
   1.6
   1.7
   TropT
   <0.01
   <0.01
   Glucose
   95
   100
   75
   100
   Other labs: CK / CKMB / Troponin-T:87//<0.01, ALT / AST:13/, Lactic
   Acid:0.8 mmol/L, Ca++:9.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   79 year-old female with history of sarcoidosis, moderate pulmonary
   hypertension, ILD, and diabetes mellitus type 2 who presents with acute
   on chronic dyspnea
   .
   #  Hypoxic respiratory failure:  Unclear etiology of hypoxia. Concerned
   initially for CHF and diuresed to negative 2L yesterday however with
   diuresis bumped creatinine/BUN.
   - follow BNPs and lactates to ascertain degree of CHF and whether
   perfusing as this may be able to sort out etiology of pleural
   effusions-> as still elevated BNP today would favor another 40mg IV
   Lasix especially since creatinine this am at baseline.
   - Flu swab negative
   - TTE with worsening PAH but this could be from hypoxic
   bronchoconstriction
   - sputum cx pending
   - empiric vanc/levo were discontinued as no evidence of infection
   clinically or on imaging
   - wean shovel mask as tolerated
   - Consider swan-ganz for pulmonary and wedge pressures to ascertain CHF
   vs ILD
   #  Pulmonary hypertension/right heart failure: Was doing well in clinic
   one week prior to admission so unlikely to have sildenafil treatment
   failure. TTE showed worsening PAH but unclear if this is related to
   hypoxic constriction as above.
   - cont sildenafil and consider increasing dose
   - cont lasix with caution given preload dependence of right ventricle
   - cte to f/u BNPs/lactate as above.
   - [**Month (only) 11**] consider steroids to treat ILD if swan shows worsening PAH and
   consider flolan in the future.
   # Chronic renal insufficiency:  Creatinine at baseline of 1.5 prior to
   diuresis then bumped to 1.7 likely [**2-5**] pre-renal azotemia from
   diuresis.
   - renally dose meds
   -trend creatinine
   ICU Care
   Nutrition: No IVF, replete electrolytes, regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-6-4**] 01:00 PM
   Cordis/Introducer - [**2114-6-6**] 06:15 PM
   PA Catheter - [**2114-6-6**] 06:15 PM
   Prophylaxis:
   DVT: Subcutaneous heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter is [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 6367**]
   Code status: Full
   Disposition: ICU